US06528510B1
2-Amino-6-tert-butyl-benzothiazole-4-thiol
The title compound was prepared according to General Method 14 using 6-tert-butyl-4-thiocyanato-benzothiazol-2-yl-amine (Example L-6; 2.0 g, 7.6 mmol), dithiothreitol (4.6 g, 30 mmol), phosphate buffer of pH 7 (10 mL), and EtOH (50 mL). The crude product was used further without any purification. MS (APCI): 239 (M+H).

reactant | 6-tert-butyl-4-thiocyanato-benzothiazol-2-yl-amine | 7.6 mmol, 2.0 g | C(C)(C)(C)C1=CC2=C(N=C(S2)N)C(=C1)SC#N | C12H13N3S2
reactant | dithiothreitol | 30 mmol, 4.6 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | phosphate | P(=O)([O-])([O-])[O-]
solvent | EtOH | 50 mL | CCO | C2H6O
product | 2-Amino-6-tert-butyl-benzothiazole-4-thiol | NC=1SC=2C(N1)=C(C=C(C2)C(C)(C)C)S | C11H14N2S2
